US07470790B2
Synthesis of 3-(6-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (III-3)
To a suspension of Dess-Martin periodinane (0.0014 mol) in 10 mL CH2Cl2 was added a solution of 3-(6-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester III-2 (0.001 mol) in 5 mL CH2Cl2 and the reaction mixture was stirred at room temperature for 18 h. 1 M Na2S2O3 (10 mL) was added to the reaction, and after stirring for 10 min, the reaction mixture was extracted with CH2Cl2(10 mL×3). The combined organic layers were washed with 5% aqueous NaHCO3 (20 mL×3) and brine (20 mL×2). The organic layer was dried over anhydrous Na2SO4. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel, hexanes:EtOAc, 8:2) to give pure product (96%).

reactant | Dess-Martin periodinane | 0.0014 mol | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-(6-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C1)O)CC1=NC(=CC=C1)NC(=O)OC(C)(C)C | C20H31N3O5
reactant | Na2S2O3 | 1 M, 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(6-tert-butoxycarbonylamino-pyridin-2-ylmethyl)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 96% | C(C)(C)(C)OC(=O)N1CC(C(C1)=O)CC1=NC(=CC=C1)NC(=O)OC(C)(C)C | C20H29N3O5
